US08431596B2
Cyclopropanecarboxylic acid (5-m-tolyloxy-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide (WW-072)
5-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (0.05 g, 0.178 mmol) and m-cresol (0.096 g, 0.889 mmol) were dissolved in dioxane (1 mL). Potassium carbonate (0.123 g, 0.889 mmol) and a couple of drop of dimethylacetamide were added and the mixture was heated to 180° C. for 30 mins in the microwave. The crude product was filtered and purified by preparatory HPLC. LCMS method: 2, RT: 3.63 min, MI: 309.

reactant | 5-Bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.178 mmol, 0.05 g | BrC1=CC=CC=2N1N=C(N2)N | C6H5BrN4
reactant | m-cresol | 0.889 mmol, 0.096 g | C1=C(C=CC=C1O)C | C7H8O
reactant | Potassium carbonate | 0.889 mmol, 0.123 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | Cyclopropanecarboxylic acid (5-m-tolyloxy-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide | C1(=CC(=CC=C1)OC1=CC=CC=2N1N=C(N2)NC(=O)C2CC2)C | C17H16N4O2
